US03998958
1 -m-Chlorophenyl-3 -(1 -methyl-2 -pyrrolidylidene)urea
Assuming 100 % conversion, 2.94 g. (0.03 mole) of 2 -imino-1 -methylpyrrolidine is liberated from its HCL salt using the calculated amount of 50 % NaOH (2.4 g., 0.03 mole) and extracting into benzene. The benzene solution is dried over K2CO3. To this solution, 4.6 g. (0.03 mole) of m-chlorophenylisocyanate dissolved in anhydrous benzene is added dropwise with stirring. Solid forms and the mixture is stirred at room temperature overnight. The solid, 1 -m-chlorophenyl-3 -(1 -methyl-2 -pyrrolidylidene)urea, is collected, m.p. = 135°-136° C. A second crop is collected from the mother liquors after taking it to dryness, triturating with hot CHCl3, and filtering off that which does not dissolve. The two crops are combined and recrystallized from methanol-ether to give the pure product, m.p. = 137°-138° C.

reactant | 2 -imino-1 -methylpyrrolidine | 0.03 mole | N=C1N(CCC1)C | C5H10N2
reactant | NaOH | 0.03 mole, 2.4 g | [OH-].[Na+]
reactant | m-chlorophenylisocyanate | 0.03 mole | ClC=1C=C(C=CC1)N=C=O | C7H4ClNO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1 -m-Chlorophenyl-3 -(1 -methyl-2 -pyrrolidylidene)urea | ClC=1C=C(C=CC1)NC(=O)N=C1N(CCC1)C | C12H14ClN3O
